US09388185B2
2-(3,5-Dimethoxyphenethyl)-6-(6-methoxypyridin-3-yl)-5H-pyrrolo[2,3-b]pyrazine
The compound was prepared by using procedures analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and (6-methoxypyridin-3-yl)boronic acid (from Aldrich). LCMS calculated for C22H23N4O3(M+H)+: m/z=391.2. Found: m/z=391.1.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | (6-methoxypyridin-3-yl)boronic acid | COC1=CC=C(C=N1)B(O)O | C6H8BNO3
product | 2-(3,5-Dimethoxyphenethyl)-6-(6-methoxypyridin-3-yl)-5H-pyrrolo[2,3-b]pyrazine | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C=3C=NC(=CC3)OC)C=C(C1)OC | C22H22N4O3
